US04772751
Preparation of tert-Butylmethylisopropoxyborane
The reaction was run following the procedure described in Example 1 using methyllithium (38.4 mmol, 24.6 mL) and tert-butyldiisopropoxyborane (7.15 g, 38.3 mmol). Volatiles were removed at atmospheric pressure and the product distilled to yield 3.9 g (27.5 mmol, 73%), bp 90°-92° C. (741 mm Hg); proton NMR (CDCl3) δ4.30 (septet, J=18 Hz, 1H), 1.15 (d, J=18 Hz, 6H), 0.83 (s, 9H), 0.30 (brs, 3H); boron NMR (neat) δ+52.9 ppm (s).

reactant | methyllithium | 38.4 mmol, 24.6 mL | C[Li]
reactant | tert-butyldiisopropoxyborane | 38.3 mmol, 7.15 g | C(C)(C)(C)B(OC(C)C)OC(C)C | C10H23BO2
reactant | boron | [B] | B
product | tert-Butylmethylisopropoxyborane | C(C)(C)(C)B(OC(C)C)C | C8H19BO
